US04870189
N-Benzhydrylazetidine
To A solution of 6.9 kg (50 moles) of potassium carbonate in 7.5 liters of water was added 18.5 liters of 1-butanol, 7.85 kg (50 moles) of 1-bromo-3-chloropropane and 5.18 kg (25 moles) of benzhydrylamine (97% purity with 10% toluene as a residual solvent). The reaction mixture was heated to 100° C. externally with steam and stirred slowly under a nitrogen gas atmosphere overnight. About 12 liters of water was added to the mixture to dissolve some inorganic salt precipitate. The layers were separated and organic layer was distilled under reduced pressure to remove about 18 liters of butanol and water. To the residue was added 1.5 liters of methanol and the resulting mixture was stirred slowly while cooling down to room temperature. The white solid was collected by filtration, rinsed twice with 700 ml portions of methanol and dried in a vacuum oven to give 4.2 kg (75%) of product, m.p. 107°-109° C.

reactant | potassium carbonate | 50 moles, 6.9 kg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-butanol | 18.5 liters | C(CCC)O | C4H10O
reactant | 1-bromo-3-chloropropane | 50 moles, 7.85 kg | BrCCCCl | C3H6BrCl
reactant | benzhydrylamine | 25 moles, 5.18 kg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
solvent | water | 7.5 liters | O | H2O
solvent | water | 12 liters | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Benzhydrylazetidine | 4.2 kg, 75% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCC1 | C16H17N
